US07985753B2
5-Nitro-1,2,3,4-tetrahydro-isoquinoline
In close analogy to the procedure described above, 5-Nitro-isoquinoline is reacted with sodium borohydride to provide the title compound.

reactant | 5-Nitro-isoquinoline | [N+](=O)([O-])C1=C2C=CN=CC2=CC=C1 | C9H6N2O2
reactant | sodium borohydride | [BH4-].[Na+]
product | 5-Nitro-1,2,3,4-tetrahydro-isoquinoline | [N+](=O)([O-])C1=C2CCNCC2=CC=C1 | C9H10N2O2
